US04207341
To a solution of 12.2 g. ethyl 4-(2-aminoethyl)-phenylacetate hydrochloride in 40 ml dioxane and 40 ml acetone, there is added dropwise, after the addition of 8 ml pyridine, a solution of 12.3 g 2-butoxy-5-chlorobenzoyl chloride in 10 ml acetone. The reaction mixture is then stirred under reflux for 3 hours and thereafter evaporated in a vacuum. The residue is stirred with dilute hydrochloric acid and then with aqueous sodium bicarbonate solution, filtered with suction and washed with water. There are obtained 19 g of crude product which, after recrystallization from ethanol, with the addition of small amounts of water, gives ethyl 4-[2-(2-butoxy-5-chlorobenzamido)-ethyl]-phenylacetate; m.p. 80° C.

reactant | ethyl 4-(2-aminoethyl)-phenylacetate hydrochloride | Cl.NCCC1=CC=C(C=C1)CC(=O)OCC
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-butoxy-5-chlorobenzoyl chloride | 12.3 g | C(CCC)OC1=C(C(=O)Cl)C=C(C=C1)Cl | C11H12Cl2O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | ethyl 4-[2-(2-butoxy-5-chlorobenzamido)-ethyl]-phenylacetate | C(CCC)OC1=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)OCC)C=C(C=C1)Cl | C23H28ClNO4
